US07772260B2
4-Phenoxyacetophenone was prepared by refluxing 4-fluoroaceotone and phenol in DMAc for 16 hours. The solvent was removed under reduced pressure and the reside subjected to standard ethyl acetate/water work-up and the resulting material purified by silica gel chromatography.

reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | DMAc | CC(=O)N(C)C | C4H9NO
product | 4-Phenoxyacetophenone | CC(=O)C1=CC=C(C=C1)OC2=CC=CC=C2 | C14H12O2
